US07579474B2
4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-BUTYLPIPERIDIN-4-OL
Preparation according to Example 2: 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol (0.31 g, 1.18 mmol), acetonitrile (20 ml), potassium carbonate (0.3 g, 2.9 mmol), bromobutane (0.16 ml, 1.3 mmol). Yield: 0.26 g, 70%. The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 138° C. MS m/z (relative intensity, 70 eV) 319 (M+, 6), 277 (14), 276 (bp), 258 (23) 185 (9).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol | 1.18 mmol, 0.31 g | FC1=C(C=CC=C1C(F)(F)F)C1(CCNCC1)O | C12H13F4NO
reactant | potassium carbonate | 2.9 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromobutane | 1.3 mmol, 0.16 ml | BrCCCC | C4H9Br
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-BUTYLPIPERIDIN-4-OL | FC1=C(C=CC=C1C(F)(F)F)C1(CCN(CC1)CCCC)O | C16H21F4NO
